US07893056B2
A solution of [(2R)-3-{2-[2-chloro-5-fluoro-6-(4-methyl-1-piperazinyl)-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide (30 mg) in 4:1 AcOH:water (4 mL) was stirred at room temperature overnight. The solvents were removed in vacuo, and the resulting crude product was purified by RP-HPLC to provide [(2R)-3-{2-[2-chloro-5-fluoro-6-(4-methyl-1-piperazinyl)-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide (12 mg, 47%). LCMS: (M+H)+: 458.3.

reactant | [(2R)-3-{2-[2-chloro-5-fluoro-6-(4-methyl-1-piperazinyl)-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide | 30 mg | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OC1OCCCC1)CC1CCCC1)=O)F)N1CCN(CC1)C | C24H37ClFN7O4
reactant | AcOH | CC(=O)O | C2H4O2
solvent | water | 4 mL | O | H2O
product | [(2R)-3-{2-[2-chloro-5-fluoro-6-(4-methyl-1-piperazinyl)-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide | 12 mg, 47% | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)O)CC1CCCC1)=O)F)N1CCN(CC1)C | C19H29ClFN7O3
